US07238724B2
(2S,5S)-1-(N-cyclopentylglycyl)-5-methylpyrrolidine-2-carbonitrile
(2S,5S)-1-(2-Chloro-acetyl)-5-methyl-pyrrolidine-2-carbonitrile (50 mg, 0.30 mmol) and cyclopentylamine (0.059 mL, 0.6 mmol) were dissolved in acetonitrile (2 mL) and stirred overnight. The product was purified by reverse phase HPLC eluting with 0% to 70% acetonitrile/0.1% aqueous trifluoroacetic acid. 1H NMR (300 MHz, methanol-d4) δ ppm 1.36 (d, J=6.44 Hz, 3 H), 1.68 (m, 5 H), 1.85 (m, 3 H), 2.16 (m, 3 H), 2.38 (m, 3 H), 3.60 (m, 1 H), 4.20 (m, 1 H), 4.77 (m, 1 H). MS (ESI) m/z 236 (M+H)+.

reactant | (2S,5S)-1-(2-Chloro-acetyl)-5-methyl-pyrrolidine-2-carbonitrile | 0.30 mmol, 50 mg | ClCC(=O)N1[C@@H](CC[C@@H]1C)C#N | C8H11ClN2O
reactant | cyclopentylamine | 0.6 mmol, 0.059 mL | C1(CCCC1)N | C5H11N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (2S,5S)-1-(N-cyclopentylglycyl)-5-methylpyrrolidine-2-carbonitrile | C1(CCCC1)NCC(=O)N1[C@@H](CC[C@@H]1C)C#N | C13H21N3O
